US04070366
2,4-Dimethyl-3-acetyl-pyrrole (0.68 g), acetic acid (15 ml), aq. hydriodic acid (15 ml) and paraformaldehyde (0.6 g) were stirred for three hours under nitrogen at room temperature. The crude product was isolated as in Example 4 (2,3,4-trimethyl-5-carbethoxy-pyrrole) then crystallized from benzene to yield 0.55 g (73%) of colourless elongated prisms, m.p. 204°-207° C. (lit. 207° H. Fischer and W. Zerweck, Berichte 56, 523 (1923)). Anal. Calc. for C9H13NO: C, 71.49; H, 8.67; N, 9.26. Found: C, 71.29; H, 8.68; N, 9.38.

reactant | 2,4-Dimethyl-3-acetyl-pyrrole | 0.68 g | CC=1NC=C(C1C(C)=O)C | C8H11NO
reactant | hydriodic acid | 15 ml | I | HI
reactant | paraformaldehyde | 0.6 g | C=O | CH2O
reactant | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 2,3,4-trimethyl-5-carbethoxy-pyrrole | CC=1NC(=C(C1C)C)C(=O)OCC | C10H15NO2
